datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[O:9][H:10]>>[C:0]([C:1]([O:2])([H:6])[H:7])([H:3])([H:4])[H:5].[H:8][O:9][H:10],-14.89504
[C:0](=[C:1][C:2](=[S:3])[H:6])([H:4])[H:5].[C:7]([S:8][H:12])([H:9])([H:10])[H:11]>>[C:0](=[C:1]([C:2](=[S:3])[H:6])[H:9])([H:4])[H:5].[C:7]([S:8][H:12])([H:10])[H:11],68.6176
[H:0].[c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]2[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]2[c:10]#1>>[H:0][c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]2[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]2[c:10]1,0.953952
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[c:13]1[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]1[H:23]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[H:9])([H:8])[c:13]1[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]1[H:23])[H:7])([H:5])[H:6],2.25936
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5](=[C:6]([C:7]([C:8]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0](#[C:1][C:2](=[S:3])[H:12])[H:4].[C:5](=[C:6]([C:7]([C:8]([H:14])([H:15])[H:16])[H:13])[H:11])([H:9])[H:10],69.4544
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](=[C:6][C:7]([H:10])([H:11])[H:12])([H:8])[H:9]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:6](=[C:5]([H:8])[H:9])[C:7]([H:10])([H:11])[H:12],27.6144
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10](=[C:11]([c:12]1[c:13]([H:28])[c:14]([H:29])[c:15]([H:30])[c:16]([H:31])[c:17]1[H:32])[H:27])[c:18]1[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]1[H:37])([H:24])([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10]([C:9]([H:24])([H:25])[H:26])[c:18]1[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]1[H:37])([c:12]1[c:13]([H:28])[c:14]([H:29])[c:15]([H:30])[c:16]([H:31])[c:17]1[H:32])[H:27])[H:4],43.0115
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11](=[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])([C:15]([H:23])([H:24])[H:25])[H:19])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:19])[H:6].[C:11](=[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])[C:15]([H:23])([H:24])[H:25])[H:18])([H:16])[H:17],28.4512
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[H:8]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][H:8],0.8368
[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([H:16])[H:17])[H:15])=[C:6]([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]([C:4](=[C:5]([H:16])[H:17])[H:15])[C:6]1([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23],63.3458
[C:0](=[N:1])([H:2])[H:3].[O:4][O:5][H:6]>>[C:0](=[N:1][H:6])([H:2])[H:3].[O:4][O:5],-6.732056
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[C:7]([C:8]([C:9]([C:10]([C:11]([C:12]([C:13]([C:14]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16]>>[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[C:7]([C:8]([C:9]([C:10]([C:11]([C:12]([C:13]([C:14]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16],0.0
[C:0]([C:1](=[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[O:15][O:16][H:17]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[H:10][O:15][O:16][H:17],44.05752
[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:11][O:12]>>[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:6])[H:7].[H:5][O:11][O:12],198.74
[C:0](=[C:1]([c:2]1[c:3]([H:14])[c:4]([H:15])[c:5]([H:16])[c:6]2[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]12)[H:13])[H:12].[O:21][H:22]>>[C:0](#[C:1][c:2]1[c:3]([H:14])[c:4]([H:15])[c:5]([H:16])[c:6]2[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]12)[H:12].[H:13][O:21][H:22],0.0
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8]([C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:8]([C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12],35.1456
[C:0](=[O:1])([H:2])[H:3].[C:4]([C:5]([C:6]([H:11])([H:12])[H:13])[C:7]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10]>>[C:0](=[O:1])[H:3].[H:2][C:5]([C:4]([H:8])([H:9])[H:10])([C:6]([H:11])([H:12])[H:13])[C:7]([H:14])([H:15])[H:16],14.895
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14](=[C:15]([C:16]([C:17]([H:23])([H:24])[H:25])[C:18](=[C:19]([H:27])[H:28])[H:26])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[C:16]([C:15](=[C:14]([H:20])[H:21])[H:22])([C:17]([H:23])([H:24])[H:25])[C:18](=[C:19]([H:27])[H:28])[H:26])[H:6],76.358
